US04788195
N-[4-[3 -(Dimethylamino)propoxy]phenyl]-4-(3-pyridinyl)-2-pyrimidinamine
A 5.46 g portion of 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenol was reacted with 3-dimethylaminopropyl chloride by the procedure of Example 255, giving 2.9 g of the desired product, mp 85°-87° C.

reactant | 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenol | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)O | C15H12N4O
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
product | N-[4-[3 -(Dimethylamino)propoxy]phenyl]-4-(3-pyridinyl)-2-pyrimidinamine | 2.9 g | CN(CCCOC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)C | C20H23N5O
